US06177440B1
A mixture of methyl 2-bromo-3-aminobenzoate (10.2 g, 44.3 mM) and 5-methyl-1,3-cyclohexanedione (6.15 g, 48.7 mm) was heated at 125° C. under a stream of nitrogen for 1.5 hours. The resultant solid was triturated with ethyl acetate to afford 9.98 g (67%) of 3-(3-carbomethoxy-2-bromoanilino)-5-methyl-cyclohex-2-en-1-one. 1H NMR (CDCl3) δ 7.55 (m, 2H), 7.35 (dd, J=8 and 8 Hz, 1H), 6.4 (bs, 1H), 5.55 (s, 1H), 3.95 (s, 3H), 2.6-2.0 (m, 5H), 1.15 (d, J=7 Hz, 3H). MS (ES) m/e 338, 340.

reactant | methyl 2-bromo-3-aminobenzoate | 44.3 mM, 10.2 g | BrC1=C(C(=O)OC)C=CC=C1N | C8H8BrNO2
reactant | 5-methyl-1,3-cyclohexanedione | 6.15 g | CC1CC(CC(C1)=O)=O | C7H10O2
product | 3-(3-carbomethoxy-2-bromoanilino)-5-methyl-cyclohex-2-en-1-one | 9.98 g, 67% | C(=O)(OC)C=1C(=C(NC2=CC(CC(C2)C)=O)C=CC1)Br | C15H16BrNO3
